US05464829
(a) Preparation of p-methoxybenzyl 7-{(Z)-2-(2-tritylaminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(thiazolo[5,4-c]pyridin-2-yl)thiomethyl-3-cephem-4-carboxylate
Using 60 mg of 2-mercaptothiazolo[5,4-c]pyridine in place of 2-mercaptothiazolo[4,5-c]pyridine and 238 mg of p-methoxybenzyl 7-{(Z)-2-(2-tritylaminothiazol-4-yl)-2-methoxyiminoacetamido}-3-chloromethyl-3-cephem-4-carboxylate, the reaction and purification were carried out in the same manner as in Example 1(a) to obtain 186 mg of the title compound in a yield of 67%.

reactant | 2-mercaptothiazolo[5,4-c]pyridine | 60 mg | SC=1SC=2C=NC=CC2N1 | C6H4N2S2
reactant | p-methoxybenzyl 7-{(Z)-2-(2-tritylaminothiazol-4-yl)-2-methoxyiminoacetamido}-3-chloromethyl-3-cephem-4-carboxylate | 238 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CCl)C(=O)OCC2=CC=C(C=C2)OC)C1=O)=N/OC | C41H36ClN5O6S2
product | p-methoxybenzyl 7-{(Z)-2-(2-tritylaminothiazol-4-yl)-2-methoxyiminoacetamido]-3-(thiazolo[5,4-c]pyridin-2-yl)thiomethyl-3-cephem-4-carboxylate | 186 mg, yield of 67% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC=3C=NC=CC3N2)C(=O)OCC2=CC=C(C=C2)OC)C1=O)=N/OC | C47H39N7O6S4
